US05510533
33.4 g of 2-chloro-1,3,5-trifluorobenzene and 200 ml of methanol saturated with ammonia gas at room temperature were sealed in a Teflon-coating autoclave and heated on an oil bath at 160° C. for 40 hours. After the reaction, the solvent and unreacted 2-chloro-1,3,5-trifluorobenzene were distilled off from the reaction mixture under reduced pressure, and the remaining mixture of a solid component and an oily component was extracted with ether to obtain an oily product in an amount of 31.7 g (yield of 2-chloro-3,5-difluoroaniline: 95% determined by GLC analysis).

reactant | 2-chloro-1,3,5-trifluorobenzene | 33.4 g | ClC1=C(C=C(C=C1F)F)F | C6H2ClF3
reactant | ammonia | N | H3N
solvent | methanol | 200 ml | CO | CH4O
product | 2-chloro-3,5-difluoroaniline | ClC1=C(N)C=C(C=C1F)F | C6H4ClF2N
